US07700641B2
B. Synthesis of 6-(benzyloxy)-3,3-dimethyl-2,3-dihydrobenzofuran
To a solution of 4-(benzyloxy)-1-bromo-2-(2-methylallyloxy)benzene (5.00 g, 15.1 mmol) in benzene (400 mL) was added tributyltin hydride (7.42 mL, 27.2 mmol) and benzoyl peroxide (0.70 g, 2.90 mmol) at 0° C. The resulting mixture was refluxed at 100° C. overnight. After cooling down to ambient temperature, the mixture was washed with water, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (ethyl acetate/hexane, 1/20) to give the title compound (3.48 g, 91%): MS (ES+) m/z 255.6 (M+1).

reactant | 4-(benzyloxy)-1-bromo-2-(2-methylallyloxy)benzene | 15.1 mmol, 5.00 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)Br)OCC(=C)C | C17H17BrO2
reactant | tributyltin hydride | 27.2 mmol, 7.42 mL | C(CCC)[SnH](CCCC)CCCC
reactant | benzoyl peroxide | 2.90 mmol, 0.70 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | benzene | 400 mL | C1=CC=CC=C1 | C6H6
product | 6-(benzyloxy)-3,3-dimethyl-2,3-dihydrobenzofuran | 3.48 g, 91% | C(C1=CC=CC=C1)OC1=CC2=C(C(CO2)(C)C)C=C1 | C17H18O2
